US07189850B2
a) 8-Benzyl-1-(3-methyl-butyl)-1,3,8-triaza-spiro[4.5]decan-4-one
To a solution of 100 mg (0.408 mmol) 8-benzyl-1,3,8-triaza-spiro[4,5]decan-4-one (m.p. 164–166° C.) and 0.062 ml (49.2 mg, 0.571 mmol) isovaleraldehyde in 3 ml 1,2-dichloroethane were added 130 mg (0.611 mmol) sodium triacetoxyborohydride and the mixture stirred at ambient temperature for 16 h. Then the reaction mixture was quenched with 10 ml saturated aqueous NaHCO3-solution and extracted with dichloromethane. The organic extracts were washed with brine, dried over Na2SO4, filtered and evaporated: 128 mg 8-benzyl-1-(3-methyl-butyl)-1,3,8-triaza-spiro[4.5]decan-4-one as colorless crystals: m.p. 139–140° C., MS (ISP): 316.4 MH+.

reactant | 8-benzyl-1,3,8-triaza-spiro[4,5]decan-4-one | 0.408 mmol, 100 mg | C(C1=CC=CC=C1)N1CCC2(C(NCN2)=O)CC1 | C14H19N3O
reactant | isovaleraldehyde | 0.571 mmol, 0.062 ml, 49.2 mg | C(CC(C)C)=O | C5H10O
reactant | sodium triacetoxyborohydride | 0.611 mmol, 130 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | 1,2-dichloroethane | 3 ml | ClCCCl | C2H4Cl2
product | 8-Benzyl-1-(3-methyl-butyl)-1,3,8-triaza-spiro[4.5]decan-4-one | C(C1=CC=CC=C1)N1CCC2(C(NCN2CCC(C)C)=O)CC1 | C19H29N3O
